US05352678
Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(2-fluoro-5-methoxyphenyl)methyl ]piperidine
4-(1,3-Benzodioxol-5-yl)cyclohexanone and 4-(2-fluoro-5-methoxybenzyl)piperidine were reacted as described in in example 9 to give the product (31%, mp: 89°-91° C.). Calc'd for C25H29F2NO2 : C, 72.61%; H, 7.07%; N, 3.39%. Found: C, 72.66%; H, 7.07%; N, 3.30%.

reactant | 4-(1,3-Benzodioxol-5-yl)cyclohexanone | O1COC2=C1C=CC(=C2)C2CCC(CC2)=O | C13H14O3
reactant | 4-(2-fluoro-5-methoxybenzyl)piperidine | FC1=C(CC2CCNCC2)C=C(C=C1)OC | C13H18FNO
product | Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(2-fluoro-5-methoxyphenyl)methyl ]piperidine | 31% | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCC(CC2)CC2=C(C=CC(=C2)OC)F | C26H32FNO3
